US04456464
To ethyl P-methyl-α-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]ethylphosphinate (1.1 g) in ethanol (10 ml) is added potassium hydroxide (0.5 g) in water (15 ml). The mixture is stirred at RT for 4 hours. The ethanol is removed, and the aqueous solution is acidified and extracted with ether. The combined extracts are dried and evaporated to dryness to give P-methyl-α-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-ethylphosphinic acid.

reactant | ethyl P-methyl-α-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]ethylphosphinate | 1.1 g | CP(OCC)(=O)C(C)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C18H18ClF3NO6P
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | P-methyl-α-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]-ethylphosphinic acid | CP(O)(=O)C(C)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO6P
